US04736051
While keeping the reaction system at 60° C., 150 g of glycidol (oxirane value=683.7) was gradually added, followed by their reaction at 70° C. for 2 hours. The acid value of the reaction system was AV1=4.4, AV2=6.0, revealing that the reaction system contained about 4.5 mole % of unreacted monododecyl phosphate and about 8.1 mole % of the corresponding phosphoric diester, i.e., dodecyl glyceryl phosphate and about 87.4 mole % of the corresponding phosphoric triester, i.e., dodecyl diglyceryl phosphate were formed.

reactant | glycidol | 150 g | C1C(O1)CO | C3H6O2
reactant | monododecyl phosphate | P(=O)(OCCCCCCCCCCCC)([O-])[O-]
reactant | dodecyl glyceryl phosphate | P(=O)(OCCCCCCCCCCCC)(OCC(O)CO)[O-]
product | dodecyl diglyceryl phosphate | P(=O)(OCCCCCCCCCCCC)(OCC(O)CO)OCC(O)CO | C18H39O8P
